US07091228B2
Methyl cis-2-(4-bromobenzoyl)cyclohexanecarboxylate (1.76 g, 5.41 mmol) and 4-amino phenyl boronic acid (1.13 g, 6.49 mmol) were added to a clean dry flask under argon. Toluene (50 mL), EtOH (20 mL), and 3 M aqueous Na2CO3 (14 mL, 43 mmol) were added, and resulting solution was degassed for 30 minutes by using a flow of argon. Then [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II), 1:1 complex with dichloromethane (442 mg, 0.54 mmol) was added and the resulting mixture was heated at 85° C. for 16 h. The mixture was cooled to rt, and then diluted with EtOAc and passed through a Celite® pad. The solvent was removed by rotary evaporation. Water and EtOAc were added, and the aqueous layer was extracted with EtOAc. The combined organic phases were washed with water, brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (Biotage Flash 40M) using 33 to 40% ethyl acetate in hexane to afford methyl cis-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclohexanecarboxylate.(1.54 g, 84%). LC-MS ret. time 3.99; m/z 338 (MH+); 1H NMR (400 MHz, CD2Cl2) δ 1.37–1.53 (m, 3H), 1.74–1.88 (m, 2H), 1.90–1.99 (m, 1H), 2.04–2.22 (m, 2H), 2.75 (m, 1H), 3.59 (s, 3H), 3.90 (q, 1H), 6.79 (m, 2H), 7.48 (m, 2H), 7.63 (m, 2H), 7.89 (m, 2H).

reactant | Methyl cis-2-(4-bromobenzoyl)cyclohexanecarboxylate | 5.41 mmol, 1.76 g | BrC1=CC=C(C(=O)[C@@H]2[C@@H](CCCC2)C(=O)OC)C=C1 | C15H17BrO3
reactant | 4-amino phenyl boronic acid | 6.49 mmol, 1.13 g | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
reactant | Na2CO3 | 43 mmol, 3 M, 14 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dichloromethane | 0.54 mmol, 442 mg | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | Toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | methyl cis-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclohexanecarboxylate | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[C@@H]1[C@@H](CCCC1)C(=O)OC | C21H23NO3
